US08633200B2
Methyl2-(7-hydroxy-5-methyl-3-phenyl-4,7-dihydropyrazolo[1,5-a]pyrimidin-6-yl)acetate
To a solution of 4-phenyl-1H-pyrazol-5-amine (0.5 g, 3.14 mmol) and dimethyl 2-acetylsuccinate (1.77 g, 9.4 mmol) in xylene (100 mL) was added p-toluenesulfonic acid monohydrate (5 mg, 0.263 mmol). The reaction mixture was heated at reflux under a Dean-Stark trap for 20 hrs. The solid was filtered and washed by hexanes to afford (0.75 g, 80%) of the title compound. 1H-NMR (500 MHz, DMSO-d6) δ ppm 2.38 (3H, s), 3.39 (2H, s), 3.59 (3H, s), 7.33 (1H, S), 7.47 (2H, m), 7.57 (2H, m) 8.13 (1H, S), 11.87 (1H, s).

reactant | 4-phenyl-1H-pyrazol-5-amine | 3.14 mmol, 0.5 g | C1(=CC=CC=C1)C=1C=NNC1N | C9H9N3
reactant | dimethyl 2-acetylsuccinate | 9.4 mmol, 1.77 g | C(C)(=O)C(C(=O)OC)CC(=O)OC | C8H12O5
reactant | p-toluenesulfonic acid monohydrate | 0.263 mmol, 5 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | xylene | 100 mL | C=1(C(=CC=CC1)C)C | C8H10
product | Methyl2-(7-hydroxy-5-methyl-3-phenyl-4,7-dihydropyrazolo[1,5-a]pyrimidin-6-yl)acetate | 0.75 g, 80% | COC(CC1=C(NC=2N(C1O)N=CC2C2=CC=CC=C2)C)=O | C16H17N3O3
